US05716971
In THF (800 ml) was dissolved ethyl 5-bromo-4-chloro-2-methoxymethoxybenzoate (161.4 g). To the solution was added lithium aluminum hydride (19.2 g) at 0° C. over a period of 30 minutes, and the mixture was stirred for further 30 minutes. The reaction mixture was poured into a saturated aqueous saline solution, to which was added ethyl acetate, followed by subjecting the mixture to filtration with celite. The organic layer was washed with a saturated aqueous saline solution, dried (anhydrous magnesium sulfate), and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 5-bromo-4-chloro-2-methoxymethoxybenzyl alcohol (137.9 g) (Compound B-34). The physical properties are shown in Table 8.

reactant | ethyl 5-bromo-4-chloro-2-methoxymethoxybenzoate | 161.4 g | BrC=1C(=CC(=C(C(=O)OCC)C1)OCOC)Cl | C11H12BrClO4
reactant | lithium aluminum hydride | 19.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 800 ml | C1CCOC1 | C4H8O
product | 5-bromo-4-chloro-2-methoxymethoxybenzyl alcohol | 137.9 g | BrC=1C(=CC(=C(CO)C1)OCOC)Cl | C9H10BrClO3
